US06962890B2
Into a 500 ml reactor thoroughly purged with nitrogen, 16.50 ml of an ether solution containing 49.60 mmol of ethylmagnesium bromide and 10 ml of THF were introduced. To the reactor, a solution containing 12.31 g (47.20 mmol) of 2-(1-adamantyl)-4-methoxyphenol diluted with 50 ml of a THF was dropwise added at 0° C. over a period of 15 minutes. Then, 150 ml of toluene was added, and the system was heated to 95° C. to distill off about 40 ml of a mixed solution of ether and THF, whereby an opaque white slurry was obtained. After the slurry was cooled to 20° C., 3.43 g (114.30 mmol) of paraformaldehyde and 9.40 ml (67.50 mmol) of triethylamine were added, followed by stirring at 90° C. for 30 minutes. The reaction solution was allowed to cool to room temperature and then quenched with 32 ml of 18% hydrochloric acid. The organic layer was washed with 100 ml of water, 50 ml of a sodium hydrogencarbonate aqueous solution and 100 ml of a sodium chloride aqueous solution, and then concentrated. The resulting solid was purified by silica gel column chromatography to obtain 4.95 g (yield: 37%) of 3-(1-adamantyl)-5-methoxysalicylaldehyde.

reactant | ethylmagnesium bromide | 49.60 mmol | C(C)[Mg]Br
reactant | 2-(1-adamantyl)-4-methoxyphenol | 47.20 mmol, 12.31 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)OC)O | C17H22O2
reactant | paraformaldehyde | 114.30 mmol, 3.43 g | C=O | CH2O
reactant | triethylamine | 67.50 mmol, 9.40 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1-adamantyl)-5-methoxysalicylaldehyde | 4.95 g, yield: 37% | C12(CC3CC(CC(C1)C3)C2)C2=C(C(C=O)=CC(=C2)OC)O | C18H22O3
